US04066645
b. 8-Chloro-2-methylpyrazolo[1,5-a]pyrido[3,4-e]pyrimidin5(4H)-one
3 g. of 6-chloro-4-hydrazino-3-pyridinecarboxylic acid, methyl ester and 2.4 g. of 3-aminocrotonic acid nitrile are refluxed in 10 ml. of methanol for 72 hours. After this time, 8-chloro-2-methylpyrazolo[1,5-a]pyrido[3,4-e]-pyrimidin-5(4H)-one is filtered off, yield: 2.5 g. (73%); m.p. > 300°.

reactant | 6-chloro-4-hydrazino-3-pyridinecarboxylic acid, methyl ester | ClC1=CC(=C(C=N1)C(=O)OC)NN | C7H8ClN3O2
solvent | methanol | CO | CH4O
product | 8-Chloro-2-methylpyrazolo[1,5-a]pyrido[3,4-e]pyrimidin5(4H)-one | ClC1=CC2=C(C(NC=3N2N=C(C3)C)=O)C=N1 | C10H7ClN4O
